US07402672B2
3-(3-Trifluoromethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid, amide Ia-11
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(3-trifluoromethylphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-11 as an ivory colored solid. MS Obs 338.06 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3-trifluoromethylphenyl)disulfide | 1.1 equiv | FC(C=1C=C(C=CC1)SSC1=CC(=CC=C1)C(F)(F)F)(F)F | C14H8F6S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-Trifluoromethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid, amide | FC(C=1C=C(C=CC1)SC1=C(NC=2C1=NC=CC2)C(=O)N)(F)F | C15H10F3N3OS
